US07238701B2
Preparation of 4-[(3-bromophenyl)amino]-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylic acid
In a 15 mL round-bottom flask were placed 100 mg (0.23 mmol, 1 equiv) of ethyl 4-[(3-bromophenyl)amino]-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylate in 3 mL of methanol and 1.5 mL of THF. The mixture was stirred until all solids dissolved and then 0.93 mL (0.93 mmol, 4 equiv) of 1N NaOH was added. The reaction was allowed to stir at rt for 16 h and then organic solvents were concentrated in vacuo. The resulting residue was re-dissolved in H2O (10 mL) and the solution was acidified to pH 5 with 1N HCl. Once the solution was slightly acidic a white solid precipitated; the precipitate was filtered and washed with water (15 mL) and dried in a hi-vac oven overnight to provide 80 mg (87%) of the desired product, 1, as a pure white solid. 1H-NMR (DMSO-d6) δ 12.20 (s, 1H), 8.42 (s, 1H), 8.42 (s, 1H), 7.95 (t, 1H), 7.67–7.64 (m, 1H), 7.30–7.21 (m, 2H), 3.25–2.81 (m, 5H), 2.34–2.18 (m, 1H), 1.83–1.97 (m, 1H); LCMS RT=2.94 min; [M+H]+=406.2.

reactant | ethyl 4-[(3-bromophenyl)amino]-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylate | 0.23 mmol, 100 mg, 1 equiv | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)SC1=C2CCC(C1)C(=O)OCC | C19H18BrN3O2S
reactant | NaOH | 0.93 mmol, 1N, 0.93 mL, 4 equiv | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4-[(3-bromophenyl)amino]-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylic acid | 80 mg, 87% | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)SC1=C2CCC(C1)C(=O)O | C17H14BrN3O2S
